US04013649
A mixture of 10 parts of pyridinium 2,2-dibromo-3,3-dimethylbutyrate and 50 parts of 50% aqueous hydrochloric acid resulted in precipitation of 2,2-dibromo-3,3-dimethylbutyric acid in quantitative yield. The solid was recrystallized from butyl chloride, m.p. 241° - 243° C. It can then be reacted with thiocarbohydrazide as described in Example 1 to form 4-amino-6-t-butyl-3-mercapto-1,2,4-triazin-5-one.

reactant | pyridinium 2,2-dibromo-3,3-dimethylbutyrate | BrC(C(=O)[O-])(C(C)(C)C)Br.[NH+]1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | 2,2-dibromo-3,3-dimethylbutyric acid | quantitative yield | BrC(C(=O)O)(C(C)(C)C)Br | C6H10Br2O2
